US06071925
To a cooled (0° C.) and stirred solution of (S)-acenaphthenol (1.74 g, 10.2 mmol) and diphenyl-phosphorylazide in toluene (17.5 ml) was added DBU (1,8-diazabicyclo[5.4.0]undec-7-ene) (1.86 ml, 12.3 mmol) and stirring was continued at RT over a period of 20 h. The reaction mixture was extracted with toluene (2×50 ml), the combined organic phases washed with water, dried (MgSO4) and evaporated in vacuo. The crude product was dissolved in EtOH (120 ml) and hydrogenated at RT over PtO2 (0.24 g). The catalyst was filtered off, the solution evaporated in vacuo and the residue purified by column chromatography on silica gel (dichloromethane/MeOH 9:1) to yield (R)-acenaphthen-1-yl-amine (1.56 g) as a pink oil. MS: m/e=169 (M+).

reactant | (S)-acenaphthenol | 10.2 mmol, 1.74 g | [C@@H]1(CC2=CC=CC3=CC=CC1=C23)O | C12H10O
reactant | diphenyl-phosphorylazide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 12.3 mmol, 1.86 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 17.5 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-acenaphthen-1-yl-amine | 1.56 g | [C@H]1(CC2=CC=CC3=CC=CC1=C23)N | C12H11N
